US04187216
1 g (0.00292 mol) of L-alanyl-L-proline anilide hydrobromide was dissolved in 20 ml of dry pyridine and 1.39 ml (0.00584 mol) of hexanoic anhydride were added. The solution was stirred at room temperature for 1 hour and then evaporated. Final traces of pyridine were removed by addition of 10 ml of toluene and re-evaporation. The residue was dissolved in 80 ml of chloroform and the solution washed with 50 ml of saturated sodium chloride solution, dried over magnesium sulphate and evaporated to an oil. This oil crystallised from ethyl acetate/petroleum ether to give 0.9 g (86%) of N-hexanoyl-L-alanyl-L-proline anilide of melting point 113°-115° C.; [α]D20 =-171.8° (c=1.011% in methanol).

reactant | L-alanyl-L-proline anilide hydrobromide | 0.00292 mol, 1 g | Br.N[C@@H](C)C(=O)N1[C@H](C(=O)NC2=CC=CC=C2)CCC1
reactant | hexanoic anhydride | 0.00584 mol, 1.39 ml | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-hexanoyl-L-alanyl-L-proline anilide | 0.9 g, 86% | C(CCCCC)(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)NC2=CC=CC=C2)CCC1 | C20H29N3O3
